US07943774B2
tert-Butyl 4-[4-(naphthalen-1-ylethynyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate (IV-6)
Tetrakis(triphenylphosphine)palladium(0) (95 mg), copper(I) iodide (31 mg) and triethylamine (200 mg) are added to a solution of tert-butyl 4-{4-[(trimethylsilyl)ethynyl]-1,3-thiazol-2-yl}piperidine-1-carboxylate (XI-1, 600 mg) and 1-bromonaphthalene (375 mg) in degassed N,N-dimethylformamide. After heating to 85° C., tetra-n-butylammonium fluoride (1M in THF, 1.81 ml) is added dropwise. The reaction mixture is then diluted with water and extracted with ethyl acetate. The organic extracts are dried over sodium sulphate and concentrated under reduced pressure. After chromatographic purification, this gives tert-butyl 4-[4-(naphthalen-1-ylethynyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate (576 mg).

reactant | triethylamine | 200 mg | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 4-{4-[(trimethylsilyl)ethynyl]-1,3-thiazol-2-yl}piperidine-1-carboxylate | 600 mg | C[Si](C)(C)C#CC=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H28N2O2SSi
reactant | 1-bromonaphthalene | 375 mg | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | tetra-n-butylammonium fluoride | 1M, 1.81 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 95 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 31 mg | [Cu]I
product | tert-Butyl 4-[4-(naphthalen-1-ylethynyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate | C1(=CC=CC2=CC=CC=C12)C#CC=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C25H26N2O2S
